* 74LS93 (CREATED BY GOKUL P ,BE I&CE ,PSG TECH)
* Fixed: Eliminates 150V spikes and numerical instability.
* Pin Order: INA INB R01 R02 GND VCC QA QB QC QD
.subckt 74LS93 INA INB R01 R02 GND VCC QA QB QC QD

* 1. MASTER RESET (Logic High > 1.5V)
Bmr mr 0 V=if(V(R01)>1.5 & V(R02)>1.5, 1, 0)

* 2. SECTION A: DIVIDE-BY-2 (QA)
* Falling edge trigger: Compare current clock to clock 1us ago
Bta ta 0 V=if(V(INA)<1.5 & delay(V(INA),1u)>1.5, 1, 0)
* Toggle logic: Looks at the state 2us ago to prevent algebraic loops
Bqa_i qa_i 0 V=if(V(mr)>0.5, 0, if(V(ta)>0.5, 1-delay(V(qa_s),2u), V(qa_s)))
Rqa qa_i qa_s 100
Cqa qa_s 0 1n ic=0
Bouta QA GND V=V(VCC)*V(qa_s)

* 3. SECTION B: DIVIDE-BY-8 (QB, QC, QD)
* QB (Clocked by INB)
Btb tb 0 V=if(V(INB)<1.5 & delay(V(INB),1u)>1.5, 1, 0)
Bqb_i qb_i 0 V=if(V(mr)>0.5, 0, if(V(tb)>0.5, 1-delay(V(qb_s),2u), V(qb_s)))
Rqb qb_i qb_s 100
Cqb qb_s 0 1n ic=0
Boutb QB GND V=V(VCC)*V(qb_s)

* QC (Clocked by internal QB)
Btc tc 0 V=if(V(qb_s)<0.5 & delay(V(qb_s),1u)>0.5, 1, 0)
Bqc_i qc_i 0 V=if(V(mr)>0.5, 0, if(V(tc)>0.5, 1-delay(V(qc_s),2u), V(qc_s)))
Rqc qc_i qc_s 100
Cqc qc_s 0 1n ic=0
Boutc QC GND V=V(VCC)*V(qc_s)

* QD (Clocked by internal QC)
Btd td 0 V=if(V(qc_s)<0.5 & delay(V(qc_s),1u)>0.5, 1, 0)
Bqd_i qd_i 0 V=if(V(mr)>0.5, 0, if(V(td)>0.5, 1-delay(V(qd_s),2u), V(qd_s)))
Rqd qd_i qd_s 100
Cqd qd_s 0 1n ic=0
Boutd QD GND V=V(VCC)*V(qd_s)

.ends 74LS93
