* D FLIP-FLOP (Created by Gokul.P)
* Internal sampling prevents race conditions automatically.
* Pin Order: D CLK Q QN VCC GND
.subckt DFlipFlop D CLK Q QN VCC GND

* 1. INPUT NORMALIZATION
Bd_n d_n 0 V=if(V(D)>2.5, 1, 0)
Bclk_n c_n 0 V=if(V(CLK)>2.5, 1, 0)

* 2. FALLING EDGE DETECTOR (1ns window)
Bed ed 0 V=if(V(c_n)<0.5 & delay(V(c_n), 1n)>0.5, 1, 0)

* 3. TIME-TRAVEL SAMPLING (Looks 2ns into the past, replacing the need for td=10n)
B_d_sample ds 0 V=delay(V(d_n), 2n)

* 4. STATE MACHINE 
Bq_i q_i 0 V=if(V(ed)>0.5, V(ds), V(q_s))
Rq q_i q_s 10
Cq q_s 0 10p ic=0

* 5. OUTPUT BUFFERING
Bq Q GND V=V(VCC)*V(q_s)
Bqn QN GND V=V(VCC)*(1-V(q_s))

.ends DFlipFlop
