* JK FLIP-FLOP (Created by Gokul.P)
* Solves LTspice max timestep skipping AND cascading race conditions.
* Pin Order: J K CLK Q QN VCC GND
.subckt JKFF J K CLK Q QN VCC GND

* 1. INPUT NORMALIZATION 
Bj_n j_n 0 V=if(V(J)>2.5, 1, 0)
Bk_n k_n 0 V=if(V(K)>2.5, 1, 0)
Bclk_n c_n 0 V=if(V(CLK)>2.5, 1, 0)

* 2. FALLING EDGE DETECTOR 
Bed ed 0 V=if(V(c_n)<0.5 & delay(V(c_n),1u)>0.5, 1, 0)

* 3. TIME-TRAVEL 
B_j_sample js 0 V=delay(V(j_n), 2u)
B_k_sample ks 0 V=delay(V(k_n), 2u)
B_q_sample qs 0 V=delay(V(q_s), 2u)

* 4. STATE MACHINE 
Bq_i q_i 0 V=if(V(ed)>0.5, if(V(js)>0.5, if(V(ks)>0.5, 1-V(qs), 1), if(V(ks)>0.5, 0, V(qs))), V(q_s))
Rq q_i q_s 100
Cq q_s 0 1n ic=0

* 5. OUTPUT BUFFERING (Scales to VCC)
Bq Q GND V=V(VCC)*V(q_s)
Bqn QN GND V=V(VCC)*(1-V(q_s))

.ends JKFF
